US07846960B2
(6-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophen-3-yl)-acetic Acid
A solution of (6-{4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophen-3-yl)-acetic acid ethyl ester (43 mg; 0.072 mmoles) in tetrahydrofuran (1.0 mL) and methanol (1.0 mL) is treated with sodium hydroxide (1.0 mL; 1.0 N). The mixture is stirred at room temperature for 2 hours and quenched with HCl (1.0 mL, 1.0 M). The mixture is extracted with EtOAc (10 mL×2). The combined organic layers are dried over Na2SO4, filtered and concentrated. The crude product is purified by flash chromatography (eluting with 30-100% EtOAc/Hexanes) and the appropriate fractions are concentrated. The material is dried in vacuo to afford the title compound (28 mg, 68%). ES/MS m/e 564.8; 566.8 (M+1); 562.8; 564.8 (M−1)

reactant | (6-{4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophen-3-yl)-acetic acid ethyl ester | 0.072 mmoles, 43 mg | C(C)OC(CC=1C2=C(SC1)C=C(C=C2)C2=C(C=C(C=C2)OCC=2N(N=CC2C(C)C)C2=C(C=CC=C2Cl)Cl)C)=O | C32H30Cl2N2O3S
reactant | sodium hydroxide | 1.0 N, 1.0 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 1.0 mL | CO | CH4O
product | (6-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophen-3-yl)-acetic Acid | 28 mg, 68% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C=1C=CC2=C(SC=C2CC(=O)O)C1)C)C(C)C | C30H26Cl2N2O3S
